subckt oai32_x1 A1 A2 B1 B2 C X VDD VSS
OAI32A0_PA0 (pmid1 A1 VDD VDD) pmos w=2u l=100n
OAI32A0_PB0 (pmid2 A2 pmid1 VDD) pmos w=2u l=100n
OAI32A0_PC0 (oai32_or3_n B1 pmid2 VDD) pmos w=2u l=100n
OAI32A0_NA0 (oai32_or3_n A1 VSS VSS) nmos w=1u l=100n
OAI32A0_NB0 (oai32_or3_n A2 VSS VSS) nmos w=1u l=100n
OAI32A0_NC0 (oai32_or3_n B1 VSS VSS) nmos w=1u l=100n
OAI32AI0_P0 (oai32_or3 oai32_or3_n VDD VDD) pmos w=2u l=100n
OAI32AI0_N0 (oai32_or3 oai32_or3_n VSS VSS) nmos w=1u l=100n
OAI32B0_PA0 (pmid_OAI32B0_0 B2 VDD VDD) pmos w=2u l=100n
OAI32B0_PB0 (oai32_or2_n C pmid_OAI32B0_0 VDD) pmos w=2u l=100n
OAI32B0_NA0 (oai32_or2_n B2 VSS VSS) nmos w=1u l=100n
OAI32B0_NB0 (oai32_or2_n C VSS VSS) nmos w=1u l=100n
OAI32BI0_P0 (oai32_or2 oai32_or2_n VDD VDD) pmos w=2u l=100n
OAI32BI0_N0 (oai32_or2 oai32_or2_n VSS VSS) nmos w=1u l=100n
OAI32N20_PA0 (X oai32_or3 VDD VDD) pmos w=2u l=100n
OAI32N20_PB0 (X oai32_or2 VDD VDD) pmos w=2u l=100n
OAI32N20_NB0 (X oai32_or2 nmid_OAI32N20_0 VSS) nmos w=1u l=100n
OAI32N20_NA0 (nmid_OAI32N20_0 oai32_or3 VSS VSS) nmos w=1u l=100n
ends oai32_x1
